US04863959
A stirred mixture of 10.2 g of 3-(2-bromo-1-hydroxyethyl)-2,5-difluorobenzonitrile, 100 mL of t-butylamine and 100 mL of EtOH is heated at reflux under N2 for 2 hours. The mixture is stripped in vacuo and the residue is partitioned between 50 mL of H2O and 100 mL of 10% NaOH and 3×100 mL of CH2Cl2. The CH2Cl2 layers are combined, washed with 2×50 mL of H2O, dried with Na2SO4 and evaporated in vacuo to afford 9.44 g of partly crystallized dark orange material. This material is dissolved in 100 mL of CH2Cl2 and extracted with 50 mL of 10% aqueous HCl, 50 mL of H2O, 50 mL of 10% HCl and 50 mL of H2O. The combined aqueous acidic extracts are basified with 10% aqueous NaOH in ice and extracted with 3×100 mL of CH2Cl2. The CH2Cl2 extracts are washed with 2×50 mL of H2O, dried with Na2SO4 and stripped in vacuo to give an off-white solid. Recrystallization from hexane gives 5.8 g of 3-[2-(tert-butylamino)-1-hydroxyethyl]-2,5-difluorobenzonitrile, m.p. 99°-101° C. The mass spectrum shows an M+1 ion at 255. Infrared and NMR spectral data are consistent.

reactant | 3-(2-bromo-1-hydroxyethyl)-2,5-difluorobenzonitrile | 10.2 g | BrCC(O)C=1C(=C(C#N)C=C(C1)F)F | C9H6BrF2NO
reactant | t-butylamine | 100 mL | C(C)(C)(C)N | C4H11N
reactant | EtOH | 100 mL | CCO | C2H6O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(tert-butylamino)-1-hydroxyethyl]-2,5-difluorobenzonitrile | 5.8 g | C(C)(C)(C)NCC(O)C=1C(=C(C#N)C=C(C1)F)F | C13H16F2N2O
